US06589954B1
2-Methoxy-3,4-dinitrobenzoic Acid:
4-Nitro-2-methoxybenzoic acid, 3.09 g, was added to 20 mL Nitric acid:Sulfuric acid 1:1, at 0° C. After addition was complete the reaction mixture was heated at 100 ° C. for 30 minutes. Cooled to room temperature and poured into 200 mL ice water. The aqueous layer was extracted with ethyl acetate and washed with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated to give a yellow solid. This material was purified by chromatography on silica using ethyl acetate/hexane/methanol/acetic acid 5/5/1/0.1. The yellow solid obtained was used for the next step. EIMS M+ 242 (Exp. 242). NMR, d6 DMSO: s (1H) 8.5, s (1H) 7.95, s (3H) 4.05.

reactant | 4-Nitro-2-methoxybenzoic acid | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)OC | C8H7NO5
reactant | Nitric acid Sulfuric acid | 20 mL | [N+](=O)(O)[O-].S(O)(O)(=O)=O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-Methoxy-3,4-dinitrobenzoic Acid | COC1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O7
